US07402608B2
To a refluxing stirred solution of 2-(2-methyl-allyloxy)-pent-4-enoic acid ethyl ester (396 mg, 2.0 mmol) in CH2Cl2 (100 mL, 0.02 M solution) was added drop wise a solution of the tricyclohexylphosphine (1,3-Bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene)(benzylidine)ruthenium (IV) dichloride (85 mg, 0.1 mmol) in CH2Cl2 (3.0 mL). After 50 min, the reaction mixture was cooled to room temperature, concentrated and purified on silica gel bond elute using EtOAc/hexane (1:20) as an eluent furnished 5-methyl-3,6-dihydro-2H-pyran-2-carboxylic acid ethyl ester (320 mg, 92% yield) as a brown oil. NMR 1H (CDCl3, 400 MHz): 5.51 (br s, 1H), 4.28-4.08 (m, 4H), 2.32 (brs, 3H), 1.29 (t, J=7.2, 3H).

reactant | 2-(2-methyl-allyloxy)-pent-4-enoic acid ethyl ester | 2.0 mmol, 396 mg | C(C)OC(C(CC=C)OCC(=C)C)=O | C11H18O3
solvent | CH2Cl2 | 0.02 M, 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 5-methyl-3,6-dihydro-2H-pyran-2-carboxylic acid ethyl ester | 320 mg, 92% yield | C(C)OC(=O)C1OCC(=CC1)C | C9H14O3
